US06911468B2
(2) 4-[1-(4-Decylphenyl)-5-methyl-1H-pyrrol-2-yl]phenol
To a solution of 2-(4-benzyloxyphenyl)-1-(4-decylphenyl)-5-methyl-1H-pyrrole (2.77 g, 5.77 mmol) in methanol (40 ml) and tetrahydrofuran (40 ml) was added 10% palladium carbon (200 mg) and the mixture was stirred for 4 hours under hydrogen atmosphere. The insoluble matter was filtered out and the filtrate was concentrated to give the object compound as an oily substance. 2.10 g (yield: 93.3%)

reactant | 2-(4-benzyloxyphenyl)-1-(4-decylphenyl)-5-methyl-1H-pyrrole | 5.77 mmol, 2.77 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1N(C(=CC1)C)C1=CC=C(C=C1)CCCCCCCCCC | C34H41NO
solvent | methanol | 40 ml | CO | CH4O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
catalyst | palladium carbon | 200 mg | [C].[Pd]
product | 4-[1-(4-Decylphenyl)-5-methyl-1H-pyrrol-2-yl]phenol | yield: 93.3% | C(CCCCCCCCC)C1=CC=C(C=C1)N1C(=CC=C1C)C1=CC=C(C=C1)O | C27H35NO
